US08471005B2
N-{3-[2-(3,3-Dimethyl-2-oxo-2,3-dihydro-1H-indol-6-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzyl}-N-methyl-methanesulfonamide was prepared from N-[3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzyl]-N-methyl-methanesulfonamide and 6-amino-3,3-dimethyl-1,3-dihydro-indol-2-one in an analogous manner to Example 1049. Product isolated as a yellow foam (23 mg, 19%). LCMS (m/e) 491 (M+H), 1H-NMR (CDCl3, 400 MHz) δ 8.73 (s, 1H), 8.11 (d, 1H, J=8.0 Hz), 8.09 (s, 1H), 7.56-7.52 (m, 1H), 7.52-7.46 (m, 1H), 7.44 (s, 1H), 7.35 (d, 1H, J=7.6 Hz), 7.10 (d, 1H, J=8.0 Hz), 7.05-6.98 (m, 2H), 6.93 (s, 1H), 6.86 (d, 1H, J=4.8 Hz), 4.41 (s, 2H), 2.90 (s, 3H), 2.83 (s, 3H), 1.40 (s, 6H).

reactant | N-[3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzyl]-N-methyl-methanesulfonamide | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=C(CN(S(=O)(=O)C)C)C=CC2 | C16H18N4O3S2
reactant | 6-amino-3,3-dimethyl-1,3-dihydro-indol-2-one | NC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H12N2O
product | N-{3-[2-(3,3-Dimethyl-2-oxo-2,3-dihydro-1H-indol-6-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzyl}-N-methyl-methanesulfonamide | CC1(C(NC2=CC(=CC=C12)NC1=NN2C(C=N1)=CC=C2C=2C=C(CN(S(=O)(=O)C)C)C=CC2)=O)C | C25H26N6O3S
